US07253286B2
1-(3-Fluorophenyl)-3-{4-[6-(4-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenyl}urea
After dissolving 377 mg of 1-{4-[6-(4-benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenyl}-3-(3-fluorophenyl)urea in 4 ml of trifluoroacetic acid and 0.4 ml of thioanisole, the solution was stirred at 45° C. for 40 minutes. It was then returned to room temperature, potassium carbonate was added to alkalinity, and liquid separation and extraction were performed with an ethyl acetate-tetrahydrofuran (5:1) mixed solvent. The organic layer was concentrated to dryness to obtain 310 mg of the title compound.

reactant | 1-{4-[6-(4-benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenyl}-3-(3-fluorophenyl)urea | 377 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)F)N1 | C32H24FN5O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | thioanisole | 0.4 ml | C1(=CC=CC=C1)SC | C7H8S
product | 1-(3-Fluorophenyl)-3-{4-[6-(4-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]phenyl}urea | 310 mg | FC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)O | C25H18FN5O3
